US05206418
110.52 g of trifluoroacetic anhydride are added dropwise to a solution of 76.29 g of DL-N-(methoxycarbonyl)aspartic acid in ethyl acetate under cooling. After the mixturte is stirred at room temperature for 2 hours, a part of solvent is distilled off. n-hexane is added to the solution slowly under cooling, and the precipitated crystals are collected by filteration to give 65.54 g of DL-N-(methoxycarbonyl)aspartic anhydride as colorless prism.

reactant | trifluoroacetic anhydride | 110.52 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | N-(methoxycarbonyl)aspartic acid | COC(=O)N[C@@H](CC(=O)O)C(=O)O | C6H9NO6
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(methoxycarbonyl)aspartic anhydride | COC(=O)N[C@H]1CC(=O)OC1=O | C6H7NO5
